US04526787
2-Formyl-5-hydroxymethylpyridine (5.7 g, 0.042 mol) was dissolved in 40 mL of H2O and treated with 10 mL of aqueous 30% H2O2 at room temperature for 16 h. The mixture was concentrated to about 20 mL and cooled, and the precipitated acid was collected by filtration. 2-Carboxy-5-hydroxymethylpyridine was obtained in 97% yield (6.1 g). A portion was recrystallized from H2O to obtain an analytical sample. These white crystals sublimed at about 220° C., IR (mull) 3200, 1670, 1600, 1380, 1070, 870, 850, 800 cm-1 ; 1H NMR (Me2SO-d6) δ4.73 (s, 2, CH2OH), 7.9-8.2 (m, 2, 3', 4'--H), 8.67 (m, 1, 6'--H); MS calcd for C7H7NO3 153.0426, found 153.0429.

reactant | 2-Formyl-5-hydroxymethylpyridine | 0.042 mol, 5.7 g | C(=O)C1=NC=C(C=C1)CO | C7H7NO2
reactant | H2O2 | OO | H2O2
solvent | H2O | 40 mL | O | H2O
product | 2-Carboxy-5-hydroxymethylpyridine | 97% yield | C(=O)(O)C1=NC=C(C=C1)CO | C7H7NO3
